US05008426
18. 6-(2-Naphthoyl)-(6H)-dibenz[c,e][1,2]-oxaphosphorin 6-oxide
50 g (0.262 mol) of 2 -naphthoyl chloride were warmed to 80° C. under a nitrogen atmosphere. 60.3 g (0.262 mol) of 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin were added dropwise over the course of two hours while stirring. The internal temperature was subsequently increased gradually to 125° C. When the reaction was complete, 110 ml of toluene were added. After crystallization, 87 g (90% of theory) of the abovementioned compound of melting point 151° to 153° C. were obtained.

reactant | 2 -naphthoyl chloride | 0.262 mol, 50 g | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
reactant | 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin | 0.262 mol, 60.3 g | COP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C13H11O2P
solvent | toluene | 110 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(2-Naphthoyl)-(6H)-dibenz[c,e][1,2]-oxaphosphorin 6-oxide | C1=C(C=CC2=CC=CC=C12)C(=O)P1(OC2=C(C3=C1C=CC=C3)C=CC=C2)=O | C23H15O3P
